US07141690B2
Synthesis of (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)diethylsilane
At −78° C., n-butyllithium (1.56 M, 1.69 mL, 2.64 mmol) was added dropwise to a solution of 2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen (0.50 g, 2.42 mmol) in tetrahydrofuran (10 mL) and the mixture was stirred at room temperature for 4 hours. After the reaction mixture was cooled to −78° C., a solution of (2-allyloxy-3-tert-buyl-5-methylphenyl)chlorodiethylsilane (0.72 g, 2.20 mmol) in toluene (3 mL) was added dropwise thereto. The resulting reaction mixture was warmed to room temperature and stirred for 2 hours. After the solvent was distilled off under reduced pressure, toluene was added and the mixture was filtered to remove insoluble substances. The filtrate was concentrated under reduced pressure to quantitatively obtain (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)diethylsilane.

reactant | n-butyllithium | 2.64 mmol, 1.56 M, 1.69 mL | C(CCC)[Li]
reactant | 2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen | 2.42 mmol, 0.50 g | CC1C=C2C(S1)=CC=1SC(=CC12)C | C11H10S2
reactant | (2-allyloxy-3-tert-buyl-5-methylphenyl)chlorodiethylsilane | 2.20 mmol, 0.72 g | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CC)(CC)Cl | C18H29ClOSi
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (2-allyloxy-3-tert-butyl-5-methylphenyl)(2,5-dimethylcyclopenta[1,2-b:4,3-b′]dithiophen-7-yl)diethylsilane | C(C=C)OC1=C(C=C(C=C1C(C)(C)C)C)[Si](CC)(CC)C=1C=2SC(=CC2C=2C1SC(C2)C)C | C29H38OS2Si
